US07858640B2
N-{2-[8-chloro-3-(4-chlorobenzyl)-2,4-dimethylquinolin-5-yloxy]acetyl}methanesulfonamide
A mixture of [8-chloro-3-(4-chlorobenzyl)-2,4-dimethylquinolin-5-yloxy]acetic acid (0.050 g), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.037 g), methanesulfonamide (0.020 g), and 4-(N,N-dimethylamino)pyridine (0.005 g) in dichloromethane (5.0 mL) was stirred at room temperature 1 hour. The mixture was diluted with dichloromethane and this solution was washed with water and then dried over magnesium sulfate. The solvent was removed under reduced pressure and purification of the residue by preparative reverse-phase HPLC using a gradient over 30 minutes of acetonitrile in water (40% to 95% of organic modifier) gave title compound as a yellow solid, 0.010 g

reactant | [8-chloro-3-(4-chlorobenzyl)-2,4-dimethylquinolin-5-yloxy]acetic acid | 0.050 g | ClC=1C=CC(=C2C(=C(C(=NC12)C)CC1=CC=C(C=C1)Cl)C)OCC(=O)O | C20H17Cl2NO3
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.037 g | Cl.CN(CCCN=C=NCC)C
reactant | methanesulfonamide | 0.020 g | CS(=O)(=O)N | CH5NO2S
catalyst | 4-(N,N-dimethylamino)pyridine | 0.005 g | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | dichloromethane | 5.0 mL | ClCCl | CH2Cl2
product | N-{2-[8-chloro-3-(4-chlorobenzyl)-2,4-dimethylquinolin-5-yloxy]acetyl}methanesulfonamide | ClC=1C=CC(=C2C(=C(C(=NC12)C)CC1=CC=C(C=C1)Cl)C)OCC(=O)NS(=O)(=O)C | C21H20Cl2N2O4S
